US04697038
(A) 4-Pentadecylsalicylaldehyde
(15:0)-Cardanol (10.2 g) is added to an equivalent proportion of ethyl magnesium bromide in dry ethereal solution to form the phenoxy magnesium bromide, completion of which is observed when evolution of ethane ceases. Ethyl orthoformate (10 cm3) is added and the ether removed by distillation so that the temperature rises to 100° C. After refluxing for three hours, the mixture is decomposed with dilute hydrochloric acid and warmed to effect the hydrolysis of the intermediate acetal formed. Etheral extraction and recovery gives a mixture of some unchanged (15:0)-cardanol and the formylated product, 4-pentadecylsalicylaldehyde which is separated by chromatography.

reactant | ethane | CC | C2H6
reactant | cardanol | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
reactant | Ethyl orthoformate | 10 cm3 | C(OCC)([O-])[O-]
product | 4-Pentadecylsalicylaldehyde | C(CCCCCCCCCCCCCC)C=1C=C(C(C=O)=CC1)O | C22H36O2
